* D:\Disco HDD\Documentos\Facultad\ITBA\4° año\2° cuatri\22.59 - Electrónica I\Cursada\Trabajos Prácticos\Electro1\Trabajo Práctico 2\LTSPICE\carga_activa\darlington.asc
Q1 N001 vin N003 0 BC547B
Q2 N001 N003 N005 0 BC547B
R1 N001 vin 1k
Vcc N001 0 9
Ci vin N002 100n
Vs Vs 0 SINE(0 10m 5k) AC 1
Rs N002 Vs 50
M1 N004 N004 0 0 BS170
M2 N005 N004 0 0 BS170
Rref N001 N004 745
CL N005 vout 100n
RL vout 0 100k
.model NPN NPN
.model PNP PNP
.lib C:\Users\germa\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\germa\Documents\LTspiceXVII\lib\cmp\standard.mos
.ac dec 100 100 10G
;op
.backanno
.end
